US08648068B2
1.3 4-[4-Fluoro-2-((S)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
HCl in Methanol (4M; 0.250 ml) was added into a solution of 4-[2-((S)-1-tert-butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (50 mg) in dioxane (2.5 ml) at room temperature. The reaction was stirred over the weekend. The reaction mixture was purified by chromatography. The product was triturated from hot MeOH to give the intended product.

reactant | HCl | Cl | ClH
reactant | 4-[2-((S)-1-tert-butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 50 mg | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C24H27FN4O5S
solvent | Methanol | 4M, 0.250 ml | CO | CH4O
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
product | 4-[4-Fluoro-2-((S)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2CNCCC2 | C19H19FN4O3S
